US04804667
Ethyl-4-(2-aminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3carboxylate
58 mmol of ethyl 4-(2-nitrophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate are dissolved in 200 ml of tetrahydrofuran, and 2 g of Raney nickel are added. Hydrogenation is carried out under a pressure of 50 bar of H2 for 1.5 h. The solution is evaporated, and dilute hydrochloric acid is added and the product is filtered off with suction and dried. Yield: 56% of theory

reactant | ethyl 4-(2-nitrophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | 58 mmol | [N+](=O)([O-])C1=C(C=CC=C1)C1C2=C(NC(=C1C(=O)OCC)C)COC2=O | C17H16N2O6
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | Ethyl-4-(2-aminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3carboxylate | Yield: 56% | C(C)OC(=O)C=1C(C2=C(NC1C)COC2=O)C2=C(C=CC=C2)N | C17H18N2O4
